US03937837
3-Cyano-7-hydroxy-4-oxo-4H-1-benzopyran-2-propionic acid.
A mixture of 8.85 g of 2,4-dihydroxybenzoyl acetonitrile, 25 ml of pyridine and 15 g of succinic anhydride was stirred at room temperature overnight. The next morning the solid was filtered and recrystallized from methanol, mp 300°-301° C.

reactant | 2,4-dihydroxybenzoyl acetonitrile | 8.85 g | OC1=C(C(=O)CC#N)C=CC(=C1)O | C9H7NO3
reactant | succinic anhydride | 15 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3-Cyano-7-hydroxy-4-oxo-4H-1-benzopyran-2-propionic acid | C(#N)C1=C(OC2=C(C1=O)C=CC(=C2)O)CCC(=O)O | C13H9NO5
